US05837715
Step 2 cis-3-Fluoro-1-{3-[5-(1,2,4-triazol-4-yl)-1H-indol-3-yl]propyl}-4-[2-(trifluoromethyl)benzylamino]piperidine, oxalate salt
Using a similar procedure to that described in Example 1, step 5, 3-[5-(1,2,4-triazol-4-yl)-1H-indol-3-yl]propan-1-ol (0.2312 g, 0.954 mmol) was reacted with methanesulphonyl chloride (0.151 mL, 1.91 mmol) and triethylamine (0.266 mL, 1.91 mmol) in tetrahydrofuran (30 mL), followed by cis-3-fluoro-4-[2-(trifluoromethyl)benzylamino]piperidine (0.3950 g, 1.43 mmol) and potassium carbonate (0.2642 g, 1.91 mmol) in 2-propanol (30 mL). Purification by flash chromatography (alumina, CH2Cl2 --MeOH--NH3 (aq); 98:2:0.2; then silica gel, CH2Cl2 --MeOH--NH3 (aq); 94:6:0.6) gave 0.2096 g (44%) of the title compound, free base. The oxalate salt was prepared in MeOH--Et2O; mp 116°-120° C. Found: C, 52.70; H, 5.09; N, 12.22. Cl26 H28F4N6. 2C2H2O4 requires: C, 52.94; H, 4.74; N, 12.35%. δH (360 MHz, d6 -DMSO) 1.81 (1H, m), 1.92-2.03 (3H, m), 2.69-3.12 (7H, m), 3.30 (1H, m), 3.60 (1H, m), 3.99 (2H, s), 5.04 (1H, d, J=46.4 Hz), 7.31-7.33 (2H, m), 7.48-7.51 (2H, m), 7.66-7.71 (2H, m), 7.79 (1H, s), 7.84 (1H, d, J=7.4 Hz), 9.01 (2H, s), 11.17 (1H, s). m/e (ES+) 501 (M+H)+.

reactant | 3-[5-(1,2,4-triazol-4-yl)-1H-indol-3-yl]propan-1-ol | 0.954 mmol, 0.2312 g | N=1N=CN(C1)C=1C=C2C(=CNC2=CC1)CCCO | C13H14N4O
reactant | methanesulphonyl chloride | 1.91 mmol, 0.151 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 1.91 mmol, 0.266 mL | C(C)N(CC)CC | C6H15N
reactant | cis-3-fluoro-4-[2-(trifluoromethyl)benzylamino]piperidine | 1.43 mmol, 0.3950 g | F[C@@H]1CNCC[C@@H]1NCC1=C(C=CC=C1)C(F)(F)F | C13H16F4N2
reactant | potassium carbonate | 1.91 mmol, 0.2642 g | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | 2-propanol | 30 mL | CC(C)O | C3H8O
product | cis-3-Fluoro-1-{3-[5-(1,2,4-triazol-4-yl)-1H-indol-3-yl]propyl}-4-[2-(trifluoromethyl)benzylamino]piperidine, oxalate salt | 0.2096 g, 44% | C(C(=O)O)(=O)O.F[C@@H]1CN(CC[C@@H]1NCC1=C(C=CC=C1)C(F)(F)F)CCCC1=CNC2=CC=C(C=C12)N1C=NN=C1 | InChI=1S/C26H28F4N6.C2H2O4/c27-23-15-35(11-9-25(23)32-14-19-4-1-2-6-22(19)26(28,29)30)10-3-5-18-13-31-24-8-7-20(12-21(18)24)36-16-33-34-17-36;3-1(4)2(5)6/h1-2,4,6-8,12-13,16-17,23,25,31-32H,3,5,9-11,14-15H2;(H,3,4)(H,5,6)/t23-,25+;/m1./s1
